US06150352
Step 6.6B 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-formyl-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(methoxy-methylcarbamoyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (1.18 g in dry tetrahydrofuran) was added 3.9 mL of a 1M solution of lithium aluminum hydride and the mixture stirred at room temperature. After 2 hours, the reaction was quenched by the addition of saturated ammonium chloride solution. The mixture was filtered through diatomaceous earth and the filtrate extracted with ethyl acetate. The organics were then dried over magnesium sulfate and concentrated in vacuo to give the crude title compound (900 mg).

reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(methoxy-methylcarbamoyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 1.18 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C(N(C)OC)=O)Cl)=O)C1=CC(=CC(=C1)C)C | C32H40ClN3O6
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-formyl-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 900 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C=O)Cl)=O)C1=CC(=CC(=C1)C)C | C30H35ClN2O5
